US06514968B1
Preparation 40 9-(4-Fluorobenzyl)-6-methyl-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.8153 g, 0.0026 mol) is added to a mixture of 9-(4-fluorobenzyl)-6-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.6351 g, 0.0021 mol) in dry THF (4.2 mL) and dry DMF (3 mL) and the mixture is heated to 75° C. After stirring for 6 h, additional pyridinium bromide perbromide (0.0951 g, 0.30 mmol) is added and the mixture is stirred another hour. After storing in the freezer overnight, the mixture is again heated for another 40 min. THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over magnesium sulfate and concentrated to dryness. The residue is combined with lithium bromide (0.4092 g, 0.0047 mol), lithium carbonate (0.3652 g, 0.0049 mol) and dry DMF (12 mL) and heated at 120° C. for 1.5 h. DMF is removed under high vacuum and the mixture is partitioned between dichloromethane and water. The combined organic layers are dried over sodium sulfate and concentrated to dryness. The residue is chromatographed on silica gel (100 mL) using hexane (100%, to remove oil from sample) followed by ethyl acetate (100%). The residue is chromatographed again on silica gel (125 mL) using ethyl acetate/heptane (10/90) to give 0.0505 g (8%) of the title compound; MS (ESI−) for C20H16FNO m/z 304.1 (M−H)−; 1H NMR (CDCl3) δ2.54, 5.33, 5.43, 6.57, 6.93, 7.08, 7.24, 8.12.

reactant | Pyridinium bromide perbromide | 0.0026 mol, 0.8153 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 9-(4-fluorobenzyl)-6-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0021 mol, 0.6351 g | FC1=CC=C(CN2C3=CC=C(C=C3C=3C(CCCC23)=O)C)C=C1 | C20H18FNO
reactant | pyridinium bromide perbromide | 0.30 mmol, 0.0951 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | lithium bromide | 0.0047 mol, 0.4092 g | [Br-].[Li+]
reactant | lithium carbonate | 0.0049 mol, 0.3652 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 4.2 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 9-(4-Fluorobenzyl)-6-methyl-9H-carbazol-4-ol | 0.0505 g, 8% | FC1=CC=C(CN2C3=CC=C(C=C3C=3C(=CC=CC23)O)C)C=C1 | C20H16FNO
